US08791119B2
To a solution at 0° C. of 0.500 g (4.85 mmol) of 3-amino-2,2-dimethylpropanol (CAS 26734-09-8) in 12 ml of dichloromethane are added 0.059 g (0.48 mmol) of dimethylaminopyridine and 1.35 ml (9.7 mmol) of triethylamine. 1.60 g (5.82 mmol) of tert-butyldiphenylsilyl chloride dissolved in 5 ml of dichloromethane are then added dropwise. The mixture is stirred for 30 minutes at 0° C. and then for 2 hours at room temperature. 20 ml of water are then added. The organic phase is separated out by settling, washed with water and then with saturated aqueous sodium chloride solution and dried over sodium sulfate, and the solvent is evaporated off under reduced pressure to give an oil, which is chromatographed on a column of aminopropyl silica gel, eluting with a mixture of 0 to 10% methanol in dichloromethane, to give 1.20 g of 3-(tert-butyldiphenyl-silanoxy)-2,2-dimethylpropylamine in the form of a colourless oil.

reactant | 3-amino-2,2-dimethylpropanol | 4.85 mmol, 0.500 g | NCC(CO)(C)C | C5H13NO
reactant | dimethylaminopyridine | 0.48 mmol, 0.059 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 9.7 mmol, 1.35 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyldiphenylsilyl chloride | 5.82 mmol, 1.60 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | 3-(tert-butyldiphenyl-silanoxy)-2,2-dimethylpropylamine | 1.20 g | C(C)(C)(C)[Si](OCC(CN)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H31NOSi
